US07700593B2
(E)-1-(2-chlorobenzylidene)hydrazine (0.351 g, 2.27 mmol), dichloro[1,1′bis(diphenylphosphino)ferrocene]palladium (II) dichloromethane adduct (0.0185 g, 0.0227 mmol) and potassium carbonate (0.471 g, 3.41 mmol) was added to a 50-mL RBF. Toluene (2 mL) was added and 2,4-dichloro-6-methylpyridine (0.368 g, 2.27 mmol) in 3 mL of toluene was added. The red mixture was heated to 100° C. After 18 h, the reaction was allowed to cool to RT and water (20 mL) was added. The mixture was filtered and 190 mg of (E)-1-(2-chlorobenzylidene)-2-(4-chloro-6-methylpyridin-2-yl) hydrazine was collected as a tan solid. The filtrate was absorbed on silica gel and purified by silica gel chromatography (8/2 hexanes/DCM to 7/2/1 hexans/DCM/EtOAc) to afford an additional 200 mg of (E)-1-(2-chlorobenzylidene)-2-(4-chloro-6-methylpyridin-2-yl) hydrazine as a tan solid. MS (ESI, pos. ion) m/z: 280.0 (M+1).

reactant | (E)-1-(2-chlorobenzylidene)hydrazine | 2.27 mmol, 0.351 g | ClC1=C(\C=N\N)C=CC=C1 | C7H7ClN2
reactant | potassium carbonate | 3.41 mmol, 0.471 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2,4-dichloro-6-methylpyridine | 2.27 mmol, 0.368 g | ClC1=NC(=CC(=C1)Cl)C | C6H5Cl2N
reactant | water | 20 mL | O | H2O
solvent | toluene | 3 mL | C1(=CC=CC=C1)C | C7H8
catalyst | dichloro[1,1′bis(diphenylphosphino)ferrocene]palladium (II) dichloromethane adduct | 0.0227 mmol, 0.0185 g | C1=CC=C(C=C1)[PH+](C2=CC=CC=C2)[C]3[CH][CH][CH][CH]3.C1=CC=C(C=C1)[PH+](C2=CC=CC=C2)[C]3[CH][CH][CH][CH]3.C(Cl)Cl.Cl[Pd]Cl.[Fe]
solvent | Toluene | 2 mL | C1(=CC=CC=C1)C | C7H8
product | (E)-1-(2-chlorobenzylidene)-2-(4-chloro-6-methylpyridin-2-yl) hydrazine | 200 mg | ClC1=C(\C=N\NC2=NC(=CC(=C2)Cl)C)C=CC=C1 | C13H11Cl2N3
